US09416135B2
To a solution of 6-(methylthio)-1-(phenylsulfonyl)-1H-indole (890 mg, 2.93 mmol) in anhydrous THF (10 mL) at 0° C. under nitrogen was added n-BuLi (5.86 mL, 14.65 mmol, 2.5 M). After stirring for 30 min, isobutyraldehyde (1.05 g, 14.65 mmol) was added to the formed mixture. The reaction mixture was stirred at 0° C. for 1 h. The mixture was quenched with sat. NH4Cl (10 mL) at 0° C. and extracted with EtOAc (20 mL×3). The combined organic layers were dried over anhydrous sodium sulfate, filtered, concentrated and purified by column chromatography on silica gel eluted with PE/EtOAc 20:1 to give 2-methyl-1-(6-(methylthio)-1H-indol-2-yl)propan-1-one (440 mg, 64.28% yield) as a colorless oil. LC-MS MS (ESI) m/z 234.1 [M+H]+. 1H NMR (CDCl3 400 MHz): δ 8.86 (brs, 1H), 7.52 (d, J=8.4 Hz, 1H), 7.19 (s, 1H), 7.14-7.11 (m, 1H), 7.01 (dd, J1=8.4 Hz, J2=1.6, 1H), 3.42-3.38 (m, 1H), 2.47 (s, 3H), 1.20 (d, J=6.8 Hz, 6H).

reactant | 6-(methylthio)-1-(phenylsulfonyl)-1H-indole | 2.93 mmol, 890 mg | CSC1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1 | C15H13NO2S2
reactant | n-BuLi | 14.65 mmol, 2.5 M, 5.86 mL | [Li]CCCC
reactant | isobutyraldehyde | 14.65 mmol, 1.05 g | C(C(C)C)=O | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-methyl-1-(6-(methylthio)-1H-indol-2-yl)propan-1-one | 440 mg, 64.28% yield | CC(C(=O)C=1NC2=CC(=CC=C2C1)SC)C | C13H15NOS
